US05616774
(A) 2,6-Di-tert-butyl-4-[4-cyano-α-(piperidin-1-yl )benzyl]phenol
2,6-Di-tert-butylphenol (4.12 g, 0.02 mol), 2.62 g (0.02 mol) of 4-cyano-benzaldehyde and 1.7 g (0.02 mol) of piperidine are refluxed under nitrogen in 25 ml of xylene for 24 hours. The solution is then evaporated in vacuo and the residue chromatographed on silica gel with toluene/ethyl acetate (9:1) to give 6.2 g of a practically pure title compound. A 5 g portion of said compound is recrystallized twice from acetonitrile to give 1.0 g of a pure sample as colorless crystals, melting at 139°-140° C.

reactant | 2,6-Di-tert-butylphenol | 0.02 mol, 4.12 g | C(C)(C)(C)C1=C(C(=CC=C1)C(C)(C)C)O | C14H22O
reactant | 4-cyano-benzaldehyde | 0.02 mol, 2.62 g | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
reactant | piperidine | 0.02 mol, 1.7 g | N1CCCCC1 | C5H11N
solvent | xylene | 25 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2,6-Di-tert-butyl-4-[4-cyano-α-(piperidin-1-yl )benzyl]phenol | C(C)(C)(C)C1=C(C(=CC(=C1)C(C1=CC=C(C=C1)C#N)N1CCCCC1)C(C)(C)C)O | C27H36N2O
